US03966793
7-Chloro-1-methyl-5-phenyl-2-oxo-2,3-dihydro-1H-benzo[f]-1,4-diazepine (B)
An aqueous solution prepared by dissolving 7 g. of potassium hydroxide in 15 ml. of water is added to an aqueous solution of 3 g. of compound 4306 CB, then 1.8 g. of dimethyl sulphate is gradually added (about 5 minutes) with stirring, care being taken that the temperature does not rise above 25°C. After the addition is ended, the mixture is left for 2 hours at room temperature, then acidified with acetic acid. A pasty product separates which is covered with diisopropyl ether, and the suspension thus formed is heated to boiling for a few minutes; evolution of carbon dioxide takes place. The product is cooled, diluted with ether and the aqueous phase is separated. Upon evaporation of the solvent, there is obtained a residue which is crystallized from diisopropyl ether. Yield: 80%; m.p. 132°C. The product is identical with the product obtained according to Example 16.

reactant | potassium hydroxide | [OH-].[K+]
reactant | 4306 CB | C=1C=CC(=CC1)C2=NC(C(=O)NC3=C2C=C(C=C3)Cl)C(=O)[O-].O[K].[K+]
reactant | dimethyl sulphate | S(=O)(=O)(OC)OC | C2H6O4S
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
reactant | carbon dioxide | C(=O)=O | CO2
solvent | ether | CCOCC | C4H10O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 7-Chloro-1-methyl-5-phenyl-2-oxo-2,3-dihydro-1H-benzo[f]-1,4-diazepine | Yield: 80% | ClC=1C=CC2=C(C(=NCC(N2C)=O)C2=CC=CC=C2)C1 | C16H13ClN2O
